US07615549B2
(c) benzyl (R)-[1-(5-amino-6-methyl-pyridin-2-yl)-5-oxo-pyrrolidin-3-yl]-carbamate
250 mg (0.68 mmol) benzyl (R)-[1-(6-methyl-5-nitro-pyridin-2-yl)-5-oxo-pyrrolidin-3-yl]-carbamate are dissolved in 4 ml THF and 5 mL methanol and combined with 50 mg Raney nickel. The mixture is hydrogenated in a Parr apparatus at ambient temperature at 1 bar hydrogen pressure for four hours. Then the catalyst is filtered off and the filtrate is evaporated down i. vac..

reactant | benzyl (R)-[1-(6-methyl-5-nitro-pyridin-2-yl)-5-oxo-pyrrolidin-3-yl]-carbamate | 0.68 mmol, 250 mg | CC1=C(C=CC(=N1)N1C[C@@H](CC1=O)NC(OCC1=CC=CC=C1)=O)[N+](=O)[O-] | C18H18N4O5
reactant | methanol | 5 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 50 mg | [Ni] | Ni
product | benzyl (R)-[1-(5-amino-6-methyl-pyridin-2-yl)-5-oxo-pyrrolidin-3-yl]-carbamate | NC=1C=CC(=NC1C)N1C[C@@H](CC1=O)NC(OCC1=CC=CC=C1)=O | C18H20N4O3
